US05750576
Z-2-[4-(4-chloro-1,2-diphenyl-but-1-enyl)-phenoxy]-ethanol
Z-1-[4-(2-benzyloxyethoxy)-phenyl]-4-chloro-1,2-diphenyl-but-1-ene (36 g, 0.08 mol) was dissolved in the mixture of ethyl acetate (350 ml) and ethanol (350 ml). Palladium on carbon (5%, 0.28 g) was added and the solution was flushed with hydrogen gas until there was not any starting compound left (thin layer chromatography). Palladium on carbon was filtered off through siliceous earth and the filtrate was evaporated. The residue was crystallized from the mixture of ethanol (155 ml) and water (65 ml). Yield 20 g.

reactant | Z-1-[4-(2-benzyloxyethoxy)-phenyl]-4-chloro-1,2-diphenyl-but-1-ene | 0.08 mol, 36 g | C(C1=CC=CC=C1)OCCOC1=CC=C(C=C1)\C(=C(\CCCl)/C1=CC=CC=C1)\C1=CC=CC=C1 | C31H29ClO2
solvent | ethyl acetate | 350 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 350 ml | C(C)O | C2H6O
catalyst | Palladium on carbon | 0.28 g | [Pd] | Pd
product | Z-2-[4-(4-chloro-1,2-diphenyl-but-1-enyl)-phenoxy]-ethanol | ClCC/C(=C(\C1=CC=CC=C1)/C1=CC=C(OCCO)C=C1)/C1=CC=CC=C1 | C24H23ClO2
